US04024248
c. Glu-His-Trp-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 -diacetate
In analogy to Example 1 f), 500 mg of Glu-His-Trp-NH-NH2 were reacted with 920 mg (1 mmole) of H-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 . 2 HCl and purified chromatographically. Yield: 491.5 mg of chromatographically pure material. The content of peptide base was 79% as per UV-spectrum (yield: 30%). [-α]D22 = -31.3° (c=1, dimethyl acetamide)

reactant | Glu-His-Trp-NH-NH2 | 500 mg | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NN | C22H28N8O5
reactant | H-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 | 1 mmole, 920 mg | N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C40H66N10O10
product | Glu-His-Trp-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 diacetate | yield: 30% | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O | InChI=1S/C62H90N16O15.C4H6O3/c1-7-67-59(91)49-15-11-25-78(49)60(92)43(14-10-24-68-61(64)65)72-54(86)44(26-34(2)3)74-53(85)42(21-23-51(83)93-62(4,5)6)71-55(87)45(27-35-16-18-38(80)19-17-35)75-58(90)48(32-79)77-56(88)46(28-36-30-69-41-13-9-8-12-39(36)41)76-57(89)47(29-37-31-66-33-70-37)73-52(84)40(63)20-22-50(81)82;1-3(5)2-4(6)7/h8-9,12-13,16-19,30-31,33-34,40,42-49,69,79-80H,7,10-11,14-15,20-29,32,63H2,1-6H3,(H,66,70)(H,67,91)(H,71,87)(H,72,86)(H,73,84)(H,74,85)(H,75,90)(H,76,89)(H,77,88)(H,81,82)(H4,64,65,68);2H2,1H3,(H,6,7)/t40-,42+,43-,44-,45-,46-,47-,48-,49-;/m0./s1
